US03950528
3-Amino-1-(3-bromobenzyl)-pyrazol-5-one ##SPC29##
20.5 g of β-amino-β-ethoxyacrylic acid ethyl ester together with 1.5 g of p-toluenesulphonic acid were dissolved in 200 ml of ethanol. 26 g of m-bromobenzylhydrazine were added dropwise to this solution, under nitrogen. After stirring for 2 hours, the mixture was left to stand overnight and the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting Point: 160°, 12 g (35%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 20.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | m-bromobenzylhydrazine | 26 g | BrC=1C=C(CNN)C=CC1 | C7H9BrN2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-bromobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=CC=C1)Br | C10H10BrN3O
